US04551448
(c) 4-(2-Bromo-1,1,2-trifluoroethoxy)-aniline
700 ml of absolute ethyl acetate were added to 275 g of 4-(2-bromo-1,1,2-trifluoroethoxy)-nitrobenzene, and hydrogenation was carried out using 20 g of palladium on active carbon. The catalyst was filtered off and the solvent was removed. 251 g of the compound were obtained; this was pure according to NMR analysis.

reactant | 4-(2-bromo-1,1,2-trifluoroethoxy)-nitrobenzene | 275 g | BrC(C(OC1=CC=C(C=C1)[N+](=O)[O-])(F)F)F | C8H5BrF3NO3
catalyst | palladium | 20 g | [Pd] | Pd
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-Bromo-1,1,2-trifluoroethoxy)-aniline | 251 g | BrC(C(OC1=CC=C(N)C=C1)(F)F)F | C8H7BrF3NO
